US04956359
Hexahydro-1-methyl-4-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]-1H-1,4-diazepine fumarate [1:1]
A stirred mixture of 2.8 g (0.01 mole) of 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride and 1.4 g (0.01 mole) of potassium carbonate in 20 ml of tetrahydrofuran was treated with 1.15 g (0.01 mole) of 1-methylhomopiperazine, and after stirring for 15 minutes a small piece of ice was added. After stirring for 16 hr the reaction mixture was diluted with 200 ml of water and the oil which separated was extracted into methylene chloride (2×50 ml). The combined extracts were dried over magnesium sulfate and concentrated in vacuo. The residue (3.8 g) was treated with 1.2 g of fumaric acid and dissolved in 20 ml of isopropanol by heating. Upon cooling, the precipitated solid was collected by filtration to yield 4.1 g (86.6%) of white crystals, m.p. 131°-133° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.01 mole, 2.8 g | FC(C=1C=C(OC2CN(C2)C(=O)Cl)C=CC1)(F)F | C11H9ClF3NO2
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylhomopiperazine | 0.01 mole, 1.15 g | CN1CCNCCC1 | C6H14N2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | Hexahydro-1-methyl-4-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]-1H-1,4-diazepine fumarate | 4.1 g, 86.6% | C(\C=C\C(=O)O)(=O)O.CN1CCN(CCC1)C(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | InChI=1S/C17H22F3N3O2.C4H4O4/c1-21-6-3-7-22(9-8-21)16(24)23-11-15(12-23)25-14-5-2-4-13(10-14)17(18,19)20;5-3(6)1-2-4(7)8/h2,4-5,10,15H,3,6-9,11-12H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
